US04772719
3-bromo-5-(1-hydroxyethyl)-isoxazole
In a similar manner dibromoformaldoxime is reacted with propargyl alcohol, ethyl propiolate, phenylacetylene, 1-pentyn-3-ol, 1-hexyn-1-ol, 3-butyn-1-ol, n-butyl 2-hydroxy-3-butanoate, and dichloroformaldoxime is reacted with 3-butyn-2-ol and propargyl alcohol, to afford the following compounds respectively:

reactant | dibromoformaldoxime | BrC(=NO)Br | CHBr2NO
reactant | propargyl alcohol | C(C#C)O | C3H4O
reactant | ethyl propiolate | C(C#C)(=O)OCC | C5H6O2
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 1-pentyn-3-ol | C#CC(CC)O | C5H8O
reactant | 1-hexyn-1-ol | C(#CCCCC)O | C6H10O
reactant | 3-butyn-1-ol | C(CC#C)O | C4H6O
reactant | dichloroformaldoxime | ClC(=NO)Cl | CHCl2NO
reactant | 3-butyn-2-ol | CC(C#C)O | C4H6O
product | 3-bromo-5-(1-hydroxyethyl)-isoxazole | BrC1=NOC(=C1)C(C)O | C5H6BrNO2
